US04740369
Furylacrylic acid (23 g, 0.135 mol), 2-ethylhexanol (87.5 g, 0.67 mol) and 0.5 ml Tyzor® (DuPont tetraisopropyltitanate) were mixed in a 3-neck round bottom flask equipped with a thermometer, condenser and high speed stirrer. The mixture was heated to 190° C. and held there with stirring until the theoretical 2.4 ml of water was distilled off at atmospheric pressure. The residual product was distilled at 134° C./0.5 torr yielding 33.0 g (92.6%) of 2-ethylhexylfuryl acrylate. A gas chromatagraphic analysis indicated the product was 97.1% pure. The material has peak absorption at 300.1 nm and a K of 98.3.

reactant | Furylacrylic acid | 0.135 mol, 23 g | O1C(=CC=C1)C(C(=O)O)=C | C7H6O3
reactant | 2-ethylhexanol | 0.67 mol, 87.5 g | C(C)C(CO)CCCC | C8H18O
reactant | water | 2.4 ml | O | H2O
product | 2-ethylhexylfuryl acrylate | 33.0 g, 92.6% | C(C=C)(=O)OC=1OC=CC1CC(CCCC)CC | C15H22O3
